US07163940B2
To a cold (0° C.) solution of N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine (1.51 g, 3.7 mmol) in 50 mL chloroform was added m-chloroperbenzoic acid (0.87 g, 70–75%, 3.7 mmol). The reaction was allowed to warm to rt. After stirring for 5 h, another 0.2 g m-chloroperbenzoic acid was added and the reaction was stirred for 15 min. The reaction was diluted with aqueous sodium bicarbonate and extracted with dichloromethane. The organic extracts were washed with brine, dried over magnesium sulfate and concentrated. The crude product was recrystallized from ethyl acetate-hexanes to afford N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine (0.95 g, 60%) as an orange solid. 1H NMR (CDCl3): δ 8.40 (broad, 1H), 7.99 (d, 1H), 7.58 (m, 2H), 7.45 (t, 1H), 7.20 (t, 2H), 6.94 (d, 1H), 6.13 (d, 1H), 6.10 (broad, 1H), 3.38 (m, 2H), 2.98 (s, 3H), 1.79–1.42 (m, 4H), 0.97 (t, 3H); MS m/z 422 (M−1).

reactant | N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | 3.7 mmol, 1.51 g | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F | C22H22FN5S
reactant | m-chloroperbenzoic acid | 3.7 mmol, 0.87 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-butyl-2-(4-fluorophenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-7-amine | 0.95 g, 60% | C(CCC)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=CC=C(C=C2)F | C22H22FN5OS
